US05958944
Methyl (R)-4-(1-acetamidoethyl)benzoate (2 g) was added portionwise to a mixed solution of conc. nitric acid (1.2 ml) and conc. sulfuric acid (1.2 ml) under ice-cooling, and the mixture was stirred at room temperature for 5 hours. The reaction mixture was poured into ice-water, and extracted with chloroform. The extract was washed with water, dried, and concentrated under reduced pressure. The obtained crystals were recrystallized from ethyl acetate-hexane to give 1.4 g of methyl (R)-4-(1-acetamidoethyl)-3-nitrobenzoate.

reactant | Methyl (R)-4-(1-acetamidoethyl)benzoate | 2 g | C(C)(=O)N[C@H](C)C1=CC=C(C(=O)OC)C=C1 | C12H15NO3
reactant | nitric acid | 1.2 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 1.2 ml | S(O)(O)(=O)=O | H2O4S
product | methyl (R)-4-(1-acetamidoethyl)-3-nitrobenzoate | 1.4 g | C(C)(=O)N[C@H](C)C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C12H14N2O5
